US08709615B2
2-Bromo-5-methylpyridine (30 g, 174 mmol), phenylboronic acid (25.5 g, 209 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (2.86 g, 6.98 mmol) and potassium phosphate tribasic monohydrate (120 g, 523 mmol) were added to toluene (600 mL) and water (60 mL). The reaction mixture was degassed with nitrogen for 20 min. Pd2(dba)3 (3.19 g, 3.49 mmol) was added and the reaction mixture was refluxed for 18 h. After cooling, the organic layer was separated and the aqueous layer extracted with 3×50 mL dichloromethane, dried over sodium sulfate and evaporated. The crude product was chromatographed on silica gel with 75/25 (v/v) hexane/EtOAc and then distilled on a Kugelrohr apparatus (150° C., 100 mbar) to give 26 g (88%) of 5-methyl-2-phenylpyridine as a white solid. The product was confirmed by NMR and GC/MS. HPLC purity: 99.2%.

reactant | 2-Bromo-5-methylpyridine | 174 mmol, 30 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | phenylboronic acid | 209 mmol, 25.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate tribasic monohydrate | 523 mmol, 120 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 3.49 mmol, 3.19 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 6.98 mmol, 2.86 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 60 mL | O | H2O
product | 5-methyl-2-phenylpyridine | 26 g, 88% | CC=1C=CC(=NC1)C1=CC=CC=C1 | C12H11N
